Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Vicodin
 
Attending: ___.
 
Chief Complaint:
Parathyroid Adenoma
 
Major Surgical or Invasive Procedure:
Parathyroidectomy

 
History of Present Illness:
The patient is a ___ woman who underwent excision of a 
parathyroid adenoma corresponding to the right upper parathyroid 
gland approximately ___ year
ago. At the time of that surgery found a parathyroid 
adenoma-like structure corresponding to the right upper gland 
weighing 110 mg. Exploration on the left side resulted in 
excision of left lower parathyroid gland which on permanent 
section, however, turned out to be a normal gland (frozen 
section of biopsy had indicated hyperplasia) and a biopsy of a 
left upper normal parathyroid gland. The patient has continued 
to be hypercalcemic and has evidence of persistent
hyperparathyroidism. Further workup has provided evidence for a 
nodule in the right thyroid lobe's inferior aspect and an 
ultrasound-guided fine-needle aspiration biopsy yielded cytology 
that on immunohistochemistry was consistent with parathyroid 
cells and, in addition to that, an aspirate yielded parathyroid 
hormone level above 5000 pg/mL from that nodule. Therefore at 
this point there is evidence that the patient's persistent 
hyperparathyroidism is caused by an intrathyroidal adenoma in 
the right thyroid lobe's inferior
aspect. The patient was scheduled today for parathyroidectomy 
and most likely this will consist of a right thyroid lobectomy. 
 
Past Medical History:
-Hyperparathyroidism status post parathyroidectomy, which is not 
resolved.  She has an intrathyroid parathyroid adenoma, which is 
planned to be resected as well.  
-Gastritis
-History of alcohol abuse.

 
Social History:
___
Family History:
Mother has fibromyalgia and has some kind of arthritis.

 
Physical Exam:
96.7 96.1 58 86/52 16 98RA
NAD A&O
CTAB
RRR
Abd Soft NTND
Wound: CDI
Neuro: CN II-XII intact, no voice changes, no chvosteks, no 
perioral tingling, no paresthesias
 
Pertinent Results:
___ 09:30AM BLOOD PTH-118*
___ 12:40PM BLOOD PTH-7*

 
Brief Hospital Course:
Pt was admitted to the hospital and taken to the OR for removal 
of her parathyroid adenoma. Her adenoma was identified and 
removed without complication and her PTH dropped appropriately. 
Postoperatively she was transferred to the PACU and recovered 
from anesthesia without difficulty. She was transferred to the 
floor and observed overnight. Postoperatively she was given 
calcitriol and calcium carbonate and her labs were followed for 
evidence of hypoparathyroidism. Overnight she was triggered for 
hypotension (80/50). At this time she had good urine output, no 
tachycardia, no CP, lightheaded/dizziness or other symptoms. Her 
baseline blood pressure was known to be in the ___, and repeat 
measurements were consistent with this. On POD #1 she was 
discharged to home with plan to follow up with Dr ___ in 
___ weeks. At the time of discharge she had no voice changes, no 
numbness or tingling ___, in her hands or feet, and no 
chvostek's sign.  At discharge she was tolerating regular diet, 
tolerating PO pain meds, and ambulating without difficulty.
 
Medications on Admission:
Percocet PRN, Ergocalciferol 50,000 every other week, Benadryl 
PRN, Tylenol ___ PRN, Centrum QD, Omeprazole 40 QD, Colchicine 
.6 QD, Ativan PRN, Fish oil, Zantac 300 QPM
 
Discharge Medications:
1. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
2. Ranitidine HCl 150 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime).  
3. Colchicine 0.6 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for anxiety.  
5. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. Calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO once a 
day as needed for in ___ tonight.
Disp:*30 Capsule(s)* Refills:*1*
7. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
every ___ hours for 10 days.
Disp:*40 Tablet(s)* Refills:*0*
8. Benadryl 25 mg Capsule Sig: One (1) Capsule PO every ___ 
hours as needed for allergy symptoms.  
9. Calcium Carbonate 500 mg Tablet, Chewable Sig: Three (3) 
Tablet, Chewable PO three times a day.
Disp:*270 Tablet, Chewable(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Parathyroid adenoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital to have your parathyroid gland 
removed. 

Incision Care:  Keep clean and dry. 
-You may shower, and wash surgical incisions.
-Avoid swimming and baths until your follow-up appointment.
-Please call the doctor if you have increased pain, swelling, 
redness, or drainage from the incision sites.
.
Please call your doctor or return to the ER for any of the 
following:
* You experience new chest pain, pressure, squeezing or 
tightness.
* New or worsening cough or wheezing.
* If you are vomiting and cannot keep in fluids or your 
medications.
* You are getting dehydrated due to continued vomiting, 
diarrhea or other reasons. 
* Signs of dehydration include dry mouth, rapid heartbeat or 
feeling dizzy or faint when standing.
* You see blood or dark/black material when you vomit or have a 
bowel movement.
* Your skin, or the whites of your eyes become yellow.
* Your pain is not improving within ___ hours or not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or is changing location or moving to your chest or 

back.
* You have shaking chills, or a fever greater than 101.5 (F) 
degrees or 38(C) degrees.
* Any serious change in your symptoms, or any new symptoms that 
concern you. 
* Please resume all regular home medications and take any new 
meds 
as ordered. 
* Do not drive or operate heavy machinery while taking any 
narcotic pain medication.  You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber.  
* Continue to ambulate several times per day.
* No heavy ___  lbs) until your follow up appointment.
 
Followup Instructions:
___